US07923456B2
Step 5: 5-Fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-6-formylaminomethyl-nicotinic acid methyl ester
To a solution of 6-aminomethyl-5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester (2.0 g, 5.5 mmol) in formic acid (30 mL) at 0° C. was added acetic anhydride (6 mL). The reaction mixture was stirred at ambient temperature for 2 hours. The reaction mixture was concentrated in vacuo and the resultant residue azeotroped with toluene, then dissolved in dichloromethane. This organic layer was washed with a saturated aqueous solution of sodium bicarbonate, followed by brine, dried (Na2SO4), filtered and concentrated in vacuo to afford the title compound as a dark brown solid (2.1 g, 100%). LCMS (method B): RT=4.36 min, [M+H]+=394.

reactant | 6-aminomethyl-5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester | 5.5 mmol, 2.0 g | COC(C1=C(N=C(C(=C1)F)CN)NC1=C(C=C(C=C1)[Si](C)(C)C)F)=O | C17H21F2N3O2Si
reactant | acetic anhydride | 6 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 30 mL | C(=O)O | CH2O2
product | 5-Fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-6-formylaminomethyl-nicotinic acid methyl ester | 2.1 g, 100% | COC(C1=C(N=C(C(=C1)F)CNC=O)NC1=C(C=C(C=C1)[Si](C)(C)C)F)=O | C18H21F2N3O3Si
